US07345068B2
0.5 N Lithium hydroxide (4.5 ml, 2.25 mmol) was added to a solution of 3,5-dichloro-N-trifluoroacetyl-O-[(2-phenyl)-benzoxazol-7-yl]methyl-L-tyrosine methyl ester (246 mg, 0.434 mmol) in tetrahydrofuran (2 ml) at 5° C. and the mixture was reacted at 5° C. for 84 hrs. The reaction mixture was diluted with water, adjusted to pH 3-4 with 1N hydrochloric acid under ice cooling and allowed to stand at 5° C. The precipitates were collected by filtration, washed with water and then dried to give 3,5-dichloro-O-[(2-phenyl)-benzoxazol-7-yl]methyl-L-tyrosine (198 mg, 94%) as a colorless solid.

reactant | Lithium hydroxide | 2.25 mmol, 0.5 N, 4.5 ml | [OH-].[Li+]
reactant | 3,5-dichloro-N-trifluoroacetyl-O-[(2-phenyl)-benzoxazol-7-yl]methyl-L-tyrosine methyl ester | 0.434 mmol, 246 mg | COC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=C(C(=C1)Cl)OCC1=CC=CC=2N=C(OC21)C2=CC=CC=C2)Cl)=O | C26H19Cl2F3N2O5
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3,5-dichloro-O-[(2-phenyl)-benzoxazol-7-yl]methyl-L-tyrosine | 198 mg, 94% | ClC=1C=C(C[C@H](N)C(=O)O)C=C(C1OCC1=CC=CC=2N=C(OC21)C2=CC=CC=C2)Cl | C23H18Cl2N2O4
